US07132425B2
A solution of 5-allyloxy-pyrazin-2-yl-carbamic acid tert-butyl ester (400 mg, 1.59 mmol) in methylene chloride (2 mL) was treated with a 25% solution of trifluoroacetic acid in methylene chloride (5 mL). The mixture was stirred at 25° C. for 90 min, poured with stirring into a saturated aqueous sodium bicarbonate solution (50 mL) and then sodium chloride (3 g) was added. The resulting mixture was extracted with methylene chloride (3×25 mL), and each of the organic extracts was washed with a small portion of a saturated aqueous sodium chloride solution. The combined organic extracts were dried over potassium carbonate, filtered, and concentrated in vacuo to afford 5-allyloxy-pyrazin-2-ylamine (240 mg, 100%) as pale yellow crystals.

reactant | 5-allyloxy-pyrazin-2-yl-carbamic acid tert-butyl ester | 1.59 mmol, 400 mg | C(C)(C)(C)OC(NC1=NC=C(N=C1)OCC=C)=O | C12H17N3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | sodium chloride | 3 g | [Cl-].[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-allyloxy-pyrazin-2-ylamine | 240 mg, 100% | C(C=C)OC=1N=CC(=NC1)N | C7H9N3O
